US08017775B2
Methyl 2-(2-benzyloxyphenyl)-5-nitrobenzoate (Reference Compound No. 1-1-(1))
A mixture of 2-benzyloxyphenylboronic acid (20.2 g, 88.6 mmol), methyl 2-bromo-5-nitrobenzoate (25.4 g, 97.5 mmol), cesium carbonate (57.7 g, 177 mmol) and bis(triphenylphosphine)palladium(II) dichloride (1.16 g, 1.65 mmol) was suspended in anhydrous N,N-dimethylformamide (300 mL), and then was stirred under argon atmosphere at 80° C. for 3 days. After cooling down, ethyl acetate (500 mL), diethylether (300 mL) and water (500 mL) were added thereto, and then separated. The aqueous layer was extracted with a mixture of ethyl acetate (200 mL) and diethylether (200 mL). The combined organic layer was washed with water (500 mL, twice) and saturated brine (300 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (21.0 g) as a pale yellow oil. (Yield 65%)

reactant | 2-benzyloxyphenylboronic acid | 88.6 mmol, 20.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)B(O)O | C13H13BO3
reactant | methyl 2-bromo-5-nitrobenzoate | 97.5 mmol, 25.4 g | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | cesium carbonate | 177 mmol, 57.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.65 mmol, 1.16 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 500 mL | O | H2O
solvent | diethylether | 300 mL | C(C)OCC | C4H10O
product | Methyl 2-(2-benzyloxyphenyl)-5-nitrobenzoate | 21.0 g, Yield 65% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C21H17NO5
